### PR TITLE
[Merged by Bors] - feat: Port Topology.MetricSpace.Infsep

### PR DESCRIPTION
**Pull request by casavaca**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/MetricSpace/Infsep.lean [hunk 1]
```diff
@@ -0,0 +1,599 @@
...
+
+We also define the infimum separation as the cast of the extended infimum separation to the reals.
+This is the infimum of the distance between distinct elements of the set when in a pseudometric
+space.
+
+All lemmas and definitions are in the `set` namespace to give access to dot notation.
+
+## Main definitions
+* `set.einfsep`: Extended infimum separation of a set.
+* `set.infsep`: Infimum separation of a set (when in a pseudometric space).
```
Comment (urkud) [inline Mathlib/Topology/MetricSpace/Infsep.lean:29]: Did you run `fix-comments.py` on this file?

File: Mathlib/Topology/MetricSpace/Infsep.lean [hunk 2]
```diff
@@ -0,0 +1,599 @@
...
+/-- The "extended infimum separation" of a set with an edist function. -/
+noncomputable def einfsep [EDist α] (s : Set α) : ℝ≥0∞ :=
+  ⨅ (x ∈ s) (y ∈ s) (hxy : x ≠ y), edist x y
+#align set.einfsep Set.einfsep
+
+section EDist
+
+variable [EDist α] {x y : α} {s t : Set α}
+
+/- ./././Mathport/Syntax/Translate/Basic.lean:635:2: warning: expanding binder collection (x y «expr ∈ » s) -/
```
Comment (urkud) [inline Mathlib/Topology/MetricSpace/Infsep.lean:53]: This line should be deleted.

File: Mathlib/Topology/MetricSpace/Infsep.lean [hunk 3]
```diff
@@ -0,0 +1,599 @@
...
+  by_cases hs : s.nontrivial
+  · rcases hs.einfsep_exists_of_finite with ⟨x, hx, y, hy, hxy, hxy'⟩
+    exact hxy'.symm ▸ edist_pos.2 hxy
+  · rw [not_nontrivial_iff] at hs
+    exact hs.einfsep.symm ▸ WithTop.zero_lt_top
+#align set.einfsep_pos_of_finite Set.einfsep_pos_of_finite
+
+/- ./././Mathport/Syntax/Translate/Basic.lean:635:2: warning: expanding binder collection (x y «expr ∈ » s) -/
+theorem relatively_discrete_of_finite [Finite s] :
+    ∃ (C : _)(hC : 0 < C), ∀ (x) (_ : x ∈ s) (y) (_ : y ∈ s) (hxy : x ≠ y), C ≤ edist x y := by
```
Comment (urkud) [inline Mathlib/Topology/MetricSpace/Infsep.lean:319]: Optional: migrate to `∃ C, 0 < C ∧ _`. We should do this sooner or later and this rarely causes compile errors down the way. Or add a `porting note` about this so that we migrate right after the port.

Also, `∀ x ∈ s, ∀ y ∈ s, x ≠ y → _` is more readable. BTW, we have `Set.Pairwise`. Should we use it here?

**Comment by urkud** [comment]
Sorry for leaving comments before the PR is `awaiting-review`. I should've not intervened at this stage.

File: Mathlib/Topology/MetricSpace/Infsep.lean (hunk 3 above)
Comment (casavaca) [reply Mathlib/Topology/MetricSpace/Infsep.lean]: Feel free to make additional changes. If we want to change `∃` while porting, I suggest that you run `grep -r Mathlib -nie "(. : _)(_ : . ∈ .)"` and fix it in a few other places as well.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
